US09163020B2
N-(2-fluoroethyl)-1-((3-methyl-4-(2,2,2-trifluoroethoxy)pyridin-2-yl)methyl)-1H-pyrrolo[3,2-b]pyridine-3-carboxamide
See FIG. 18(d). 1-((3-methyl-4-(2,2,2-trifluoroethoxy)pyridin-2-yl)methyl)-1H-pyrrolo[3,2-b]pyridine-3-carboxylic acid (100 mg, 0.27 mmol) was taken in DCM (10 mL) to get a clear solution. Triethyl amine (0.190 mL, 1.37 mmol) was added followed by the addition of 1-Propanephosphonic acid cyclic anhydride solution in ethyl acetate (0.326 mL, 0.55 mmol) and stirred the reaction mass for 5 minutes. 2-Fluoroethylamine hydrochloride (54.5 mg, 0.55 mmol) was added and stirred the reaction mass for 3 h. After completion of the reaction, diluted with DCM and then washed with water and brine solution. The organic layer was separated, dried, evaporated and the crude compound was purified by silica gel chromatography using methanol and dichloromethane as eluent. Yield-49%. ES+MS m/z: 411 (M+1). 1H NMR (300 MHz, DMSO-d6) δ ppm 2.25 (s, 3 H ) 3.67 (q, J=5.21 Hz, 1 H ) 3.76 (q, J=5.21 Hz, 1 H ) 4.50 (t, J=4.99 Hz, 1 H ) 4.66 (t, J=4.90 Hz, 1 H ) 4.90 (q, J=8.85 Hz, 2 H ) 5.68 (s, 2 H ) 7.06 (d, J=5.84 Hz, 1 H ) 7.24 (dd, J=8.38, 4.62 Hz, 1 H ) 7.93 (d, J=7.35 Hz, 1 H ) 8.17 (d, J=5.65 Hz, 1 H ) 8.24 (s, 1 H ) 8.48 (d, J=3.77 Hz, 1 H ) 8.94 (t, J=5.75 Hz, 1 H ).

reactant | 1-((3-methyl-4-(2,2,2-trifluoroethoxy)pyridin-2-yl)methyl)-1H-pyrrolo[3,2-b]pyridine-3-carboxylic acid | 0.27 mmol, 100 mg | CC=1C(=NC=CC1OCC(F)(F)F)CN1C=C(C2=NC=CC=C21)C(=O)O | C17H14F3N3O3
reactant | Triethyl amine | 1.37 mmol, 0.190 mL | C(C)N(CC)CC | C6H15N
reactant | 1-Propanephosphonic acid cyclic anhydride | CCCP1(=O)OP(=O)(OP(=O)(O1)CCC)CCC | C9H21O6P3
reactant | ethyl acetate | 0.55 mmol, 0.326 mL | C(C)(=O)OCC | C4H8O2
reactant | 2-Fluoroethylamine hydrochloride | 0.55 mmol, 54.5 mg | Cl.FCCN
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | N-(2-fluoroethyl)-1-((3-methyl-4-(2,2,2-trifluoroethoxy)pyridin-2-yl)methyl)-1H-pyrrolo[3,2-b]pyridine-3-carboxamide | Yield-49% | FCCNC(=O)C1=CN(C=2C1=NC=CC2)CC2=NC=CC(=C2C)OCC(F)(F)F | C19H18F4N4O2
